US07314936B2
To a solution of 5-vinyl-indole-1-carboxylic acid tert-butyl ester (4.5 g, 18.5 mmol, 1.0 eq.) in THF (46 mL) at 0° C. was added 9-BBN (0.5 M in THF, 87 mL, 2.4 eq.) over 10 min. The resulting reaction mixture was stirred for 2.5 h and diluted with THF (150 mL) and water (150 mL) while keeping the temperature at 0° C. Then NaBO3. 4H2O (44 g) was introduced and resulting reaction mixture was stirred and warmed to room temperature and stirred. The reaction mixture was diluted with methylene chloride (100 mL) and the separated aqueous layer was extracted 3×100 mL methylene chloride. The combined organic layers were dried over sodium sulfate, filtered and concentrated. The residue was purified by chromatography (methylene chloride to 5% acetone/methylene chloride) to give 5-(2-hydroxy-ethyl)-indole-1-carboxylic acid tert-butyl ester (3.82 g, 76%) or similarly 6-(2-hydroxy-ethyl)-indole-1-carboxylic acid tert-butyl ester.

reactant | 5-vinyl-indole-1-carboxylic acid tert-butyl ester | 18.5 mmol, 4.5 g, 1.0 eq. | C(C)(C)(C)OC(=O)N1C=CC2=CC(=CC=C12)C=C | C15H17NO2
reactant | 9-BBN | 0.5 M, 87 mL, 2.4 eq. | B1C2CCCC1CCC2 | C8H15B
reactant | THF | 46 mL | C1CCOC1 | C4H8O
reactant | THF | 150 mL | C1CCOC1 | C4H8O
solvent | water | 150 mL | O | H2O
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 5-(2-hydroxy-ethyl)-indole-1-carboxylic acid tert-butyl ester | 3.82 g, 76% | C(C)(C)(C)OC(=O)N1C=CC2=CC(=CC=C12)CCO | C15H19NO3
